US04446151
(C) 1,1-Difluoro-2-phthalimido-4-methylene-5-bromopentane
A mixture of 1,1-difluoro-2-phthalimido-4-methyl-4-pentene (17.8 g, 67.2 mmoles) prepared as in Step B above, N-bromosuccinimide (14.4 g, 80.6 mmoles), carbon tetrachloride (200 mL) and benzoyl peroxide (4 times one end of spatula during the heating period) is heated under strong reflux (325 W lamp) during 6.5 hours. After cooling, the solution is extracted 3 times with water, dried over magnesium sulfate, and concentrated. The oily residue obtained is used for the next step without further purification.

reactant | 1,1-difluoro-2-phthalimido-4-methyl-4-pentene | 67.2 mmoles, 17.8 g | FC(C(CC(=C)C)N1C(C=2C(C1=O)=CC=CC2)=O)F | C14H13F2NO2
reactant | N-bromosuccinimide | 80.6 mmoles, 14.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,1-Difluoro-2-phthalimido-4-methylene-5-bromopentane | FC(C(CC(CBr)=C)N1C(C=2C(C1=O)=CC=CC2)=O)F | C14H12BrF2NO2
